US07504420B2
To a stirring solution of 2,4-difluorotoluene was added 6.3 g (47.3 mmol) of AlCl3, and 3.4 mL (42.6 mmol) of chloroacetyl chloride at 0° C. After the mixture was stirred for 10 min. at 0° C. and then at 45° C. for 30 min. The mixture was allowed to cool to r.t., about 16 mL of conc. HCl, 25 mL of water, and 100 mL of EtOAc were added. The organic layer was separated and washed with brine and sat. NaHCO3 (2×), and dried over Na2SO4. The solution was filtered and concentrated to give 9.0 g of 2-chloro-1-(2,4-difluoro-5-methylphenyl)ethanone as a colorless solid that was used without further purification.

reactant | 2,4-difluorotoluene | FC1=C(C=CC(=C1)F)C | C7H6F2
reactant | AlCl3 | 47.3 mmol, 6.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 42.6 mmol, 3.4 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | about 16 mL | Cl | ClH
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 25 mL | O | H2O
product | 2-chloro-1-(2,4-difluoro-5-methylphenyl)ethanone | 9.0 g | ClCC(=O)C1=C(C=C(C(=C1)C)F)F | C9H7ClF2O
